US04408074
(a) 1-(3,5-Dimethoxy-4-hydroxyphenyl)-2,2,2-trichloroethanol (XII)
47 grams of anhydrous chloral and 50 grams of 2,6-dimethoxyphenol were introduced in a reactor thermostated at 45° C. Upon obtaining a homogeneous solution, a mixture of 6.4 grams of potassium carbonate and 1.6 grams of sodium phosphate was added thereto portionwise under stirring in a 3-hour period. At the end of the addition, the mixture was left under stirring at the same temperature until the mixture thickened. The stirring was stopped and the mixture was left stand overnight at 45° C. The mixture was kneaded a long time in water and filtered. A yellow-reddish solid product was obtained, which was crystallized from aqueous ethanol. Yield: 82 grams (83.9% calculated on dimethoxyphenol). Analysis: chlorine 34.7% theoretical 35.27%), melting point 160°-162° C.; purity 97.5% (GC).

reactant | chloral | 47 grams | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | 2,6-dimethoxyphenol | 50 grams | COC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | potassium carbonate | 6.4 grams | C([O-])([O-])=O.[K+].[K+]
reactant | sodium phosphate | 1.6 grams | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | 1-(3,5-Dimethoxy-4-hydroxyphenyl)-2,2,2-trichloroethanol | COC=1C=C(C=C(C1O)OC)C(C(Cl)(Cl)Cl)O | C10H11Cl3O4
